US08497264B2
Lithium hydroxide hydrate (0.402 g, 9.58 mmol) was added to a solution of (S)—N—((S)-1-(5-bromo-2-(methoxymethoxy)phenyl)-1-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-2-hydroxyethyl)-2-methylpropane-2-sulfinamide (1.9 g, 3.19 mmol) in THF (25 mL) at RT, followed by bromoacetonitrile (0.445 mL, 6.39 mmol). The reaction mixture was allowed to stir at RT for 12 h. The reaction mixture was treated with aqueous saturated ammonium chloride, and the mixture was extracted with EtOAc. The organic phase was washed with water, brine, dried over MgSO4 and then concentrated under reduced pressure. The remaining residue was purified by silica gel chromatography (50-100% EtOAc/hexanes) to afford 1.51 g of (S)—N—((S)-1-(5-bromo-2-(methoxymethoxy)phenyl)-1-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-2-(cyanomethoxy)ethyl)-2-methylpropane-2-sulfinamide.

reactant | Lithium hydroxide hydrate | 9.58 mmol, 0.402 g | O.[OH-].[Li+]
reactant | (S)—N—((S)-1-(5-bromo-2-(methoxymethoxy)phenyl)-1-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-2-hydroxyethyl)-2-methylpropane-2-sulfinamide | 3.19 mmol, 1.9 g | BrC=1C=CC(=C(C1)[C@@](CO)(C1=C(C(=NC(=C1)N1CCOCC1)F)Cl)N[S@@](=O)C(C)(C)C)OCOC | C23H30BrClFN3O5S
reactant | bromoacetonitrile | 6.39 mmol, 0.445 mL | BrCC#N | C2H2BrN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)—N—((S)-1-(5-bromo-2-(methoxymethoxy)phenyl)-1-(3-chloro-2-fluoro-6-morpholinopyridin-4-yl)-2-(cyanomethoxy)ethyl)-2-methylpropane-2-sulfinamide | 1.51 g | BrC=1C=CC(=C(C1)[C@@](COCC#N)(C1=C(C(=NC(=C1)N1CCOCC1)F)Cl)N[S@@](=O)C(C)(C)C)OCOC | C25H31BrClFN4O5S
